US04857630
Preparation and Polymerization of 3,5-Dichlorobenzene Magnesium Chloride
A mixture of 5 g of potassium and sodium alloy (56:44) and 8.89 g of anhydrous magnesium chloride in 200 ml tetrahydrofuran (THF) was stirred at room temperature for one hour before refluxing for two hours. After cooling to room temperature, 13.64 g of 1,3,5-trichlorobenzene in 50 ml of THF was added over 1.5 hours during which time the reaction temperature was maintained below 35° C. The solution was then stirred for 10 hours at room temperature after which 105 mg of bis(triphenylphosphine)nickel dichloride was added, and the resulting reaction mixture refluxed for 24 hours. Most of the THF was removed under reduced pressure and the polymer product precipitated by methanol addition. After two precipitations 5.60 g of polymer was obtained: Tg=236° C.; Mn=7560; Mn=17500; D=2.30.

reactant | potassium | 5 g | [K] | K
reactant | sodium | [Na] | Na
reactant | magnesium chloride | 8.89 g | [Cl-].[Mg+2].[Cl-]
reactant | 1,3,5-trichlorobenzene | 13.64 g | ClC1=CC(=CC(=C1)Cl)Cl | C6H3Cl3
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | THF | 50 ml | O1CCCC1 | C4H8O
catalyst | bis(triphenylphosphine)nickel dichloride | 105 mg | Cl[Ni]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3,5-Dichlorobenzene Magnesium Chloride | [Cl-].[Mg+2].ClC=1C=CC=C(C1)Cl.[Cl-] | InChI=1S/C6H4Cl2.2ClH.Mg/c7-5-2-1-3-6(8)4-5;;;/h1-4H;2*1H;/q;;;+2/p-2
